US07601711B2
(RS)-(4,4-Difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone
The title compound was synthesized in analogy to example 1, from (RS)-5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indole-2-carboxylic acid hydrochloride, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (commercially available), 4,4-difluoropiperidine (commercially available) and N,N-diisopropylethylamine in N,N-dimethylformamide, as a colorless solid (77%).

reactant | (RS)-5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indole-2-carboxylic acid hydrochloride | Cl.CN(C1CN(CC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)O)C
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-difluoropiperidine | FC1(CCNCC1)F | C5H9F2N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (RS)-(4,4-Difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone | FC1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CC(CC1)N(C)C)F | C21H26F2N4O2
